US05472978
3,5-Dimethylbenzyl 2-methoxycarbonylamino-3-(3-indolyl)propionate
Following the method of Example 18, 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride and methyl chloroformate gave the title compound after recrystallisation from ethyl acetate/petroleum ether, m.p. 128°-129° C. 1H NMR (360 MHz, CDCl3) δ8.04 (1H, s), 7.52 (1H, d, J=8.0 Hz), 7.32 (1H, d, J=8 Hz), 7.18 (1H, t, J=8 Hz), 7.09 (1H, t, J=8 Hz), 6.95 (1H, s), 6.83 (2H, s), 5.25 (1H, d, J=7.5 Hz), 5.00 (2H, dd, J=12 Hz), 4.73 (1H, m), 3.65 (3H, s), 3.29 (2H, d, J=5 Hz), 2.29 (6H, s).

reactant | 3,5-dimethylbenzyl 2-amino-3-(3-indolyl)propionate hydrochloride | Cl.NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | 3,5-Dimethylbenzyl 2-methoxycarbonylamino-3-(3-indolyl)propionate | COC(=O)NC(C(=O)OCC1=CC(=CC(=C1)C)C)CC1=CNC2=CC=CC=C12 | C22H24N2O4
